US06582837B1
10,10′-Bis(p-tolylphenylamino)-9,9′-bianthryl(19 g; yield 54%) was prepared as described in Preparation Example 3, except that 20 g of diphenylamine was replaced with 22 g of p-tolylphenylamine. Then, 7 g of 10,10′-bis(p-tolylphenylamino)-9,9′-bianthryl was dissolved in 50 mL of toluene, to which 3.7 g of phosphorus oxychloride was then added, and the mixture was stirred at room temperature. To the mixture was added dropwise 2.7 g of N-methylformanilide, and the mixture was stirred at 50° C. for 5 hours. After completion of the reaction, the mixture was slowly poured into 100 mL of cold water. The mixture was transferred into a separatory funnel and the toluene layer was washed several times until pH of the washing become neutral. The organic layer was dried over magnesium sulfate and evaporated to give 4.5 g (yield 60%) of 10,10′-bis(N-p-formylphenyl-N-tolylamino)-9,9′-bianthryl. To 50 mL of dimethylsulfoxide were added 2.9 g of diethyl benzylphosphonate and 0.6 g of sodium hydride. To the stirred mixture was added dropwise 4.5 g of 10,10′-bis(N-p-formylphenyl-N-tolylamino)-9,9′-bianthryl in 50 mL of dimethylsulfoxide, and the reaction mixture was stirred at 50° C. for 3 hours. After completion of the reaction, the solution was poured into 50 mL of ice-water. The mixture was neutralized with an acid and extracted with ethyl acetate. After evaporating the solvent under a reduced pressure, the residue was purified by column chromatography on silica gel eluting with chloroform, and the product was recrystallized from ethanol to give 3.8 g (yield 70%) of 10,10′-bis(N-p-styrylphenyl-N-tolylamino)-9,9′-bianthryl.

reactant | diethyl benzylphosphonate | 2.9 g | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 10,10′-bis(N-p-formylphenyl-N-tolylamino)-9,9′-bianthryl | 4.5 g | C(=O)C1=CC=C(C=C1)N(C1=C(C=CC=C1)C)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C(=C2C=CC=CC12)N(C1=CC=C(C=C1)C=O)C1=C(C=CC=C1)C | C56H40N2O2
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 10,10′-bis(N-p-styrylphenyl-N-tolylamino)-9,9′-bianthryl | 3.8 g, yield 70% | C(=CC1=CC=CC=C1)C1=CC=C(C=C1)N(C1=C(C=CC=C1)C)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C(=C2C=CC=CC12)N(C1=CC=C(C=C1)C=CC1=CC=CC=C1)C1=C(C=CC=C1)C | C70H52N2
